US06228985B1
Phenylalanine on Sasrin Resin
Wash Fmoc-phenylalanine on Sasrin resin (1.00 g, 0.69 mmol) with DMF (20 mL×2). Add 20% piperidine in DMF (20 mL), agitate for 5 minutes, and drain the solvent. Repeat two times for 15 minutes. Wash the residue with DMF (20 mL×5) and then CH2Cl2 (20 mL×5). Dry the resin in a vacuum oven at 40° C. for 20 hours to give title resin.

reactant | Fmoc-phenylalanine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=CC=C1)C(=O)O | C24H21NO4
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
